US09388176B2
tert-butyl 2-(methylthio)-5,7-dihydro-6H-pyrrolo[3,4-d]pyrimidine-6-carboxylate
A suspension of 2-methyl-2-thiopseudourea hemisulfate (3.79 g, 21.2 mmol) in ethanol (30 mL) was cooled in an ice bath. A solution of sodium ethoxide in ethanol (7.1 mL, 21 mmol, ˜3 M) was added. The mixture was stirred for 50 minutes. A solution of 3-dimethylaminomethylene-4-oxo-pyrrolidine-1-carboxylic acid tert-butyl ester (1.70 g, 7.07 mmol) in ethanol (10 mL) was added and the mixture was heated at 80° C. for 16 hours. The solvent was removed in vacuo from the cooled mixture. The residue was partitioned between ethyl acetate and aqueous sodium bicarbonate. After separation, the aqueous layer was further extracted with ethyl acetate. The combined organic extracts were washed with brine, dried (MgSO4), filtered and evaporated. The resulting oil was chromatographed on silica gel (40 g) eluted with ethyl acetate to give the title compound (1.43 g, 76%).

reactant | 2-methyl-2-thiopseudourea hemisulfate | 21.2 mmol, 3.79 g | S(=O)(=O)(O)O.CSC(N)=N.CSC(N)=N
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | 3-dimethylaminomethylene-4-oxo-pyrrolidine-1-carboxylic acid tert-butyl ester | 7.07 mmol, 1.70 g | C(C)(C)(C)OC(=O)N1CC(C(C1)=O)=CN(C)C | C12H20N2O3
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethanol | 21 mmol, ˜3 M, 7.1 mL | C(C)O | C2H6O
product | tert-butyl 2-(methylthio)-5,7-dihydro-6H-pyrrolo[3,4-d]pyrimidine-6-carboxylate | 1.43 g, 76% | CSC=1N=CC2=C(N1)CN(C2)C(=O)OC(C)(C)C | C12H17N3O2S
